US06770646B2
b) 7-Cyclopropylmethyl-5-methyl-3-[2-(methylthio)ethoxy]-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one
To 5 ml of dry tetrahydrofuran was added 0.64 ml of 1M triphenylphosphine in tetrahydrofuran followed by 0.64 ml of 1M diethyl diazodicarboxylate in tetrahydrofuran and then by 0.64 ml of 1M 2,6-di-t-butylphenol in tetrahydrofuran. This mixture was mixed for 5 minutes and then 1.28 ml of 0.5M 2-(methylthio)ethanol in tetrahydrofuran was added. The solution was then mixed for 5 minutes. 7-Cyclopropylmethyl-3-hydroxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one (248 mg in 1 ml tetrahydrofuran) was added and the solution was mixed periodically over 24 hours. The solution was opened to the air for 18 hours and then purified by chromatography, eluting with an isohexane ethyl acetate gradient, to give the title compound (77 mg).

reactant | triphenylphosphine | 1M, 0.64 ml | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazodicarboxylate | 1M, 0.64 ml | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2,6-di-t-butylphenol | 1M, 0.64 ml | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 2-(methylthio)ethanol | 0.5M, 1.28 ml | CSCCO | C3H8OS
reactant | 7-Cyclopropylmethyl-3-hydroxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one | 1 ml, 248 mg | C1(CC1)CC1=NN(C(C2=C1SC(=C2O)CC2=CC(=CC=C2)C(F)(F)F)=O)C | C19H17F3N2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-Cyclopropylmethyl-5-methyl-3-[2-(methylthio)ethoxy]-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one | 77 mg | C1(CC1)CC1=NN(C(C2=C1SC(=C2OCCSC)CC2=CC(=CC=C2)C(F)(F)F)=O)C | C22H23F3N2O2S2
